US06413938B1
A. 3,4-Dichloro-1,2-phenylenediamine
2,3-Dichloro-6-nitroaniline (20.11 g, 97.14 mmol), Raney nickel (Aldrich, Milwaukee, slurry in water, 4.78 g wet), and ethanol (250 mL) were combined in an autoclave which was presssurized to 150 psig with hydrogen. The resulting reaction mixture was allowed to stir at rt overnight. The mixture was then filtered through a pad of Celite, which was subsequently washed with several portions of methanol, and the solvents were removed by rotary evaporation to leave a dark brown solid. The solid was slurried in hexanes and was collected on a Büchner funnel to afford 16.31 g (95%) of a brown solid. MS (EI): m/z 177.0 (M+H); 1H NMR (DMSO-d6) δ: 6.60 (d, J=8.3 Hz, 1H, ArH), 6.49 (d, J=8.4 Hz, 1H, ArH), 4.98 (br s, 4H, overlapping NH2).

reactant | 2,3-Dichloro-6-nitroaniline | 97.14 mmol, 20.11 g | ClC1=C(N)C(=CC=C1Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 4.78 g | [Ni] | Ni
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 3,4-Dichloro-1,2-phenylenediamine | 16.31 g, 95% | ClC=1C(=C(C=CC1Cl)N)N | C6H6Cl2N2
